US07244744B2
To a solution of 4-(2-keto-1-benzimidazolinyl)piperidine (0.34 g, 1.57 mmol) in methylene chloride (8 mL) was added pyridine (0.15 mL, 1.88 mmol) and 4-n-butylbenzoyl chloride (0.37 g, 1.88 mmol). The reaction mixture was stirred for 1 h then purified directly by column chromatography on silica gel by eluting with methylene chloride followed by ethyl acetate. The product fractions were combined and concentrated in vacuo. The residue was triturated with ethyl ether and the solids collected by filtration and rinsed with hexanes. 1-[1-(4-Butyl-benzoyl)-piperidin-4-yl]-1,3-dihydro-benzoimidazol-2-one (0.48 g; 81%) was obtained as white solid.

reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 1.57 mmol, 0.34 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | pyridine | 1.88 mmol, 0.15 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-n-butylbenzoyl chloride | 1.88 mmol, 0.37 g | C(CCC)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 1-[1-(4-Butyl-benzoyl)-piperidin-4-yl]-1,3-dihydro-benzoimidazol-2-one | 0.48 g, 81% | C(CCC)C1=CC=C(C(=O)N2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C=C1 | C23H27N3O2
